US06872833B2
(+)-N-(7-[1,4]Dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-ethoxy-isonicotinamide
From 2-ethoxy-isonicotinic acid, HATU and N-ethyldiisopropylamine in THF, then treatment with (+)-7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-ylamine. [α]D20=+31.7° (c=0.61, CHCl3), ES-MS m/e (%): 416 (M+H+, 100).

reactant | 2-ethoxy-isonicotinic acid | C(C)OC=1C=C(C(=O)O)C=CN1 | C8H9NO3
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
reactant | (+)-7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-ylamine | O1C(COCC1)C1=CC=C(C=2N=C(SC21)N)OC | C12H14N2O3S
solvent | THF | C1CCOC1 | C4H8O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (+)-N-(7-[1,4]Dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-ethoxy-isonicotinamide | O1C(COCC1)C1=CC=C(C=2N=C(SC21)NC(C2=CC(=NC=C2)OCC)=O)OC | C20H21N3O5S
